US07858624B2
To a solution of (3R)-tert-butyl 3-((2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate (1.1 g, 2.3 mmol) in EtOH (20 mL) was added NaBH4 (0.7 g, 18.1 mmol) in portions. After addition, the mixture was stirred at rt overnight. TIc showed the start material had disappeared. The solvent was removed in vacuo to leave a residue, which was partitioned between water and EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4, filtered and evaporated to give (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate (1 g, 99%) which was used in the next step without purification.

reactant | (3R)-tert-butyl 3-((2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)piperidine-1-carboxylate | 2.3 mmol, 1.1 g | C(C)OC(COC([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C)=O | C28H36FNO5
reactant | NaBH4 | 18.1 mmol, 0.7 g | [BH4-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | (3R)-tert-butyl 3-((6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)piperidine-1-carboxylate | 1 g, 99% | FC1=CC=CC(=C1C1=CC(=CC=C1)C)C([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCO | C26H34FNO4
